* Z:\mnt\design.r\spice\examples\1013D.asc
V1 +V 0 15
R1 N002 N001 50K
R2 N001 0 5K
V3 N003 0 sine(0 .5 10K)
V2 -V 0 -15
XU1 N003 N001 +V -V N002 LT1013
.tran 1m
.lib LTC.lib
.backanno
.end
